US07851469B2
N-Cyclopropyl-6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinamide
As described for Example 18, 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester (90 mg, 0.22 mmol), was converted, using cyclopropylamine instead of cyclopropanemethylamine, to the title compound (50 mg, 52%) which was obtained as a white solid. MS: m/e=440.1 [M+H]+.

reactant | 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester | 0.22 mmol, 90 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C20H13F3N4O3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinamide | 50 mg, 52% | C1(CC1)NC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C22H16F3N5O2
